US07183260B2
Part B: (4S,5S)-4-Amino-5-ethoxy-dihydro-furan-2-one
To a suspension of (2S,3S)-(2-Ethoxy-5-oxo-tetrahydro-furan-3-yl)-carbamic acid benzyl ester (0.43 g, 1.54 mmol) in Ethyl acetate (50 mL) at room temperature was added 10 mol % Pd/C (˜0.05 g). The reaction flask was purged between H2 (1atm) and vacuum three times before stirring under H2 (1atm) at room temperature. After stirring at room temperature for 3 hrs, the reaction mixture was filtered through celite and then evaporated to dryness to give the title compound (0.21 g, 94%) as a clear oil. 1HNMR (CDCl3) δ 5.17 (d, J=1.2 Hz, 1H), 3.93–3.82 (dq, J=9.6, 7.2 Hz, 1H), 3.67–3.57 (dq, J=9.3, 6.9 Hz, 1H), 2.95–287 (dd, J=17.7, 6.9 Hz, 1H), 2.56–2.19 (dd, J=17.4, 2.7 Hz, 1H), 1.26–1.21 (t, J=7.2 Hz, 3H). MS(ES) for C6H11NO3 (MW=145.16): positive 146 ([MH+]).

reactant | (2S,3S)-(2-Ethoxy-5-oxo-tetrahydro-furan-3-yl)-carbamic acid benzyl ester | 1.54 mmol, 0.43 g | C(C1=CC=CC=C1)OC(N[C@@H]1[C@H](OC(C1)=O)OCC)=O | C14H17NO5
solvent | Ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | ˜0.05 g | [Pd] | Pd
product | (4S,5S)-4-Amino-5-ethoxy-dihydro-furan-2-one | 0.21 g, 94% | N[C@H]1CC(O[C@@H]1OCC)=O | C6H11NO3
